US07605265B2
6,8,9-Trichloro-1,2,3,4-tetrahydro-acridine:
A solution of 6,8-dichloro-1,2,3,4-tetrahydro-acridin-9-ol (18 g, 6.7 mmoL) in phosphorus oxychloride (45 mL) was heated to 135 degree Celsius for 45 min. After the excess phosphorus oxychloride was distilled under vacuum, the remaining mixture was allowed to cool to room temperature and treated with saturated sodium bicarbonate. The resulting suspension was extracted with diethyl ether (×3). The combined ether extract was washed with brine, dried with sodium sulfate, filtered and concentrated. Recrystallization from ethanol afforded the desired product (1.3 g, 68%) as a white solid.

reactant | 6,8-dichloro-1,2,3,4-tetrahydro-acridin-9-ol | 18 g | ClC=1C=C2N=C3CCCCC3=C(C2=C(C1)Cl)O | C13H11Cl2NO
reactant | phosphorus oxychloride | 45 mL | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 6,8,9-Trichloro-1,2,3,4-tetrahydro-acridine | 1.3 g, 68% | ClC=1C=C2N=C3CCCCC3=C(C2=C(C1)Cl)Cl | C13H10Cl3N
